US07361675B2
To 3 ml of N,N-dimethylformamide were added 300 mg of a mixture of 3-methylsulfinyl-5-phenyl-1,2,4-thiadiazole and 3-methylsulfonyl-5-phenyl-1,2,4-thiadiazole (integration ratio of 1H-NMR sulfonyl form:sulfinyl form=4:1) and 141 mg of 2-butyne-1-ol, and to the resulting mixture was added 80 mg of sodium hydride (60% oily) with ice-cooling. The mixture was stirred for 10 minutes with ice-cooling, and allowed to stand at room temperature for 18 hours. Then, the reaction mixture was poured into an aqueous saturated sodium chloride solution, and the mixture was extracted with t-butyl methyl ether. The organic layer was concentrated, and the resulting residue was subjected to silica gel column chromatography to obtain 200 mg of 5-phenyl-3-(2-butynyloxy)-1,2,4-thiadiazole (the compound (2) of the present invention).

reactant | 3-methylsulfinyl-5-phenyl-1,2,4-thiadiazole | CS(=O)C1=NSC(=N1)C1=CC=CC=C1 | C9H8N2OS2
reactant | 3-methylsulfonyl-5-phenyl-1,2,4-thiadiazole | CS(=O)(=O)C1=NSC(=N1)C1=CC=CC=C1 | C9H8N2O2S2
reactant | 2-butyne-1-ol | 141 mg | C(C#CC)O | C4H6O
reactant | sodium hydride | 80 mg | [H-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 5-phenyl-3-(2-butynyloxy)-1,2,4-thiadiazole | 200 mg | C1(=CC=CC=C1)C1=NC(=NS1)OCC#CC | C12H10N2OS
